US07553969B1
To a solution of Boc-Phe(2-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 (0.33 g, 0.525 mmol) in methylene chloride (3 ml), TFA (1.5 ml) was added, stirred for 15 min. and then evaporated to remove the solvent under reduced pressure. The residue was mixed with methylene chloride, washed with a saturated aqueous NaHCO3 solution, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure. The thus obtained residue was subjected to silica gel column chromatography (developing solvent: chloroform:methanol:aqueous ammonia=40:1:0.1) to give Phe(2-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 (235 mg, 85%).

reactant | Boc-Phe(2-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 | 0.525 mmol, 0.33 g | N([C@@H](CC=1C(=CC=CC1)F)C(=O)N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C)C(=O)OC(C)(C)C | C34H49FN4O6
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 1.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | Phe(2-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 | 235 mg, 85% | N[C@@H](CC=1C(=CC=CC1)F)C(=O)N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C | C29H41FN4O4
